Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Amoxicillin
 
Attending: ___.
 
Chief Complaint:
Episodes with loss of consciousness.
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
The patient is a ___ yo woman with medical history of pseudotumor 
cerebri now s/p Diamox treatment followed by Dr. ___ Dr. 
___ in clinic, who presents for evaluation of LOC episodes 
concerning for seizures. 

On the afternoon of her admission day (around 12:30pm), the 
patient reports  sitting on her bed and noting her stomach 
fluttering but denies dizziness as well as visual, olfactory, or 
auditory auras. All of a sudden woke up on the bed
lightheaded and her body felt weak. She endorses tongue biting, 
denies urinary or stool incontinence. It was hard for her to 
stand as she felt generalized weakness but that resolved in 
several hours. Later around 4:30pm she was sitting on her bed 
again and woke up on the floor. She denies hitting her head but 
complains of severe pain on her RT shoulder. She reports later 
in the afternoon had a pressure like headache and decided to 
come to the ED. 

Of note these episodes started a week prior to her admission 
when she woke up on the floor and had injured her head behind he 
ear and had bitten her tongue
on both sides. She went to ___ where she had a NCHCT which 
was normal. They sent her home and asked her to follow with her 
outpatient neurologist Dr. ___.   

 
Past Medical History:
GERD
Constipation
Pseudotumor cerebri
HLD
Orthostatic hypotension
Migraines with photophobia & phonophobia 

 
Social History:
___
Family History:
Mom: ___, RA 
Sister: RA, history of epilepsy
Dad: Joint disease

 
Physical Exam:
Admission physical examination:
Vitals: 
98.7 
83 
114/66 
18 
99% RA 

General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB
Abdomen: Soft
Extremities: Warm, no edema

Neurologic Examination:
Awake, alert, oriented x 3. Able to relate history without
difficulty. Attentive, able to name ___ backward without
difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact.  No
paraphasias.  No dysarthria. Normal prosody. Able to register 3
objects and recall ___ at 5 minutes. No apraxia. No evidence of
hemineglect. No left-right confusion.  Able to follow both
midline and appendicular commands.

- Cranial Nerves - PERRL 3->2 brisk. VF full to number counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor - Normal bulk and tone No tremor or asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  *    *   *   ___  ___    5  5     5     5
*Limited by pain.

- Sensory - No deficits to light touch

-DTRs:
  ___ Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response flexor bilaterally.

- Coordination - No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait - deferred due to patient complaining of pain.

Discharge physical examination:
 
Pertinent Results:
Labs:
-----
___ 08:45AM   GLUCOSE-77 UREA N-8 CREAT-0.8 SODIUM-137 
POTASSIUM-4.3 CHLORIDE-101 TOTAL CO2-25 ANION GAP-15
___ 08:45AM   CALCIUM-9.0 PHOSPHATE-3.5 MAGNESIUM-1.9
___ 08:45AM   WBC-10.3* RBC-4.67 HGB-12.3 HCT-39.2 MCV-84 
MCH-26.3 MCHC-31.4* RDW-14.0 RDWSD-42.8
___ 08:45AM   PLT COUNT-274
___ 01:15AM URINE  HOURS-RANDOM
___ 01:15AM URINE  UCG-NEGATIVE
___ 01:15AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 01:15AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 01:15AM URINE  RBC-<1 WBC-2 BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 01:15AM URINE  MUCOUS-RARE
___ 10:45PM   GLUCOSE-87 UREA N-9 CREAT-0.8 SODIUM-138 
POTASSIUM-3.7 CHLORIDE-101 TOTAL CO2-24 ANION GAP-17
___ 10:45PM   estGFR-Using this
___ 10:45PM   CALCIUM-9.1 PHOSPHATE-2.9 MAGNESIUM-1.8
___ 10:45PM   WBC-12.8* RBC-4.70 HGB-12.5 HCT-38.4 MCV-82 
MCH-26.6 MCHC-32.6 RDW-13.8 RDWSD-40.4
___ 10:45PM   NEUTS-66.3 ___ MONOS-7.0 EOS-1.5 
BASOS-0.4 IM ___ AbsNeut-8.47*# AbsLymp-3.12 AbsMono-0.90* 
AbsEos-0.19 AbsBaso-0.05
___ 10:45PM   PLT COUNT-281

Imaging:
--------
- GLENO-HUMERAL SHOULDER (W/ Y VIEW) BILAT (___): Normal 
bilateral shoulder radiographs.

- CHEST X-Ray ___: )No acute cardiopulmonary process.

- CT C-SPINE W/O CONTRAST (___): No cervical spine 
fracture or malalignment.

- MR HEAD W & W/O CONTRAS (___): *****

- EEG (___): *****
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with history of pseudotumor 
cerebri, now admitted due to 3 episodes of LOC concerning for 
possible seizures. Neurologic examination upon admission was non 
focal. CT cervical spine ___ negative for fracture or 
dislocation. cvEEG monitoring showed left temporal spike and 
wave discharges. MRI brain w/ and w/o contrast was normal with 
no evidence of seizure focus. She was started on levetiracetam 
1000 mg BID and received the first dose in house. She will 
follow up with her outpatient neurologist. She was educated 
about seizure precautions and the importance of starting 
medication. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  LevETIRAcetam 1000 mg PO BID 
RX *levetiracetam [Keppra] 1,000 mg 1 tablet(s) by mouth twice a 
day Disp #*60 Tablet Refills:*1 
2.  Lidocaine 5% Patch 1 PTCH TD QPM 
RX *lidocaine 5 % apply to shoulder daily Disp #*15 Patch 
Refills:*0 
3.  Naproxen 500 mg PO Q12H:PRN Pain - Moderate  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
LOC episodes concerning for Seizures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital because you had several episodes where 
you fell out of bed and woke up on the floor, as well as another 
event when you fell over at home during the day. Although we 
cannot be sure what happened, because no one saw them, these 
kinds of episodes are concerning for seizures.

While you were here, we monitored your brain waves on EEG. We 
saw that there is electrical activity in your brain which can be 
associated with seizures. The EEG is a measure of your brain 
waves now and gives us a picture of what your brain activity is 
like normally. It does not tell us exactly what happened in the 
past. However, given the combination of your description of the 
events, and the epileptiform discharges on your EEG, we think 
that it is very likely that you had seizures at the times that 
you fell out of bed.

We recommend that you start a medication to decrease your risk 
of seizure. We would like for you to take Keppra 
(levetiracetam). This medication is a very benign medication. 
Sometimes people find that it causes them to be more irritable 
or to have more mood swings. If you are having this problem we 
recommend that you continue taking the medication and we will 
think about switching it at your follow up appointment.

We have given you a lidocaine patch for your shoulder to help 
with the pain. We recommend rest, heat or ice, an 
anti-inflammatory medication and gentle stretching to help the 
bruise heal.

In the ___, the law is that you should not 
drive for six months following any loss of consciousness. If you 
have another loss of consciousness (passing out, seizure), the 
clock will restart and you will need to wait another six months. 
In addition, we recommend not bathing or swimming alone, as 
there is a risk of drowning if a seizure occurs. Avoid hazardous 
situations should a seizure occur, such as tree climbing or 
bicycling on the street with traffic.

There are some things that can trigger seizures. This includes 
sleep deprivation, alcohol use, illness (particularly nausea and 
vomiting where you cannot tolerate your medications) or missing 
medications. 

Please talk with your neurologist if you intend to become 
pregnant to discuss the management of your seizure medications 
as well as any headache medications you may take in the future.

It was a pleasure taking care of you.

- Your ___ Team
 
Followup Instructions:
___